US05726303
950 g lactitol dihydrate (860 g anhydric lactitol) were dissolved in 125 g water at 100° C. Upon cooling to 50° C. the 80 percent by weight lactitol solution was seeded with 9.5 g ground dihydrate (1 percent by weight based on the lactitol dissolves). After crystallization for 48 hours at 45° C. the crystals formed were separated from the mother liqouor in a laboratory centrifuge, washed with 25 ml water and dried at 45° C. (drying cabinet). There were then obtained 440 g lactitol monohydrate (melting point: 118°-120° C.; moisture content: 4.9%) or 49% based on the lactitol used.

reactant | lactitol dihydrate | 950 g | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O.O.O
reactant | lactitol | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](O[C@@]([C@H]2O)(CO)O)CO)O)O)O)O | C12H22O11
solvent | water | 125 g | O | H2O
product | lactitol monohydrate | 440 g, 4.9% | C([C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O.O | InChI=1S/C12H24O11.H2O/c13-1-4(16)7(18)11(5(17)2-14)23-12-10(21)9(20)8(19)6(3-15)22-12;/h4-21H,1-3H2;1H2/t4-,5+,6+,7+,8-,9-,10+,11+,12-;/m0./s1
